US07638517B2
To a RT solution of 3-cyclohexyl-N-methyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propionamide (170 mg, 0.95 mmol) in THF (10 mL) was added LAH (1 M in THF, 1.5 mL). The mixture was stirred at RT overnight, and an additional LAH (1 M in THF, 2 mL) was added. The resulting mixture was refluxed for 4 hours and then quenched by addition of freshly ground Na2SO4.10H2O (3 g). After stirring for 1 hour, the solids were filtered off and the filtrate was concentrated and purified via preparative HPLC to give [3-Cyclohexyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propyl]-methyl-amine. MS M+H=272.

reactant | 3-cyclohexyl-N-methyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propionamide | 0.95 mmol, 170 mg | C1(CCCCC1)C(CC(=O)NC)C1=CNC2=NC=CC=C21 | C17H23N3O
reactant | LAH | 1 M, 1.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LAH | 1 M, 2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [3-Cyclohexyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-propyl]-methyl-amine | C1(CCCCC1)C(CCNC)C1=CNC2=NC=CC=C21 | C17H25N3
